US04649144
A mixture of ethyl 7-chloro-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylate (1.24 g), 3-acetylaminopyrrolidine (563 mg), sodium bicarbonate (437 mg) and acetonitrile (40 ml) was refluxed for 30 minutes. After evaporation to dryness under reduced pressure, water was added to the residue. The resulting crystals were filtered and recrystallized from ethanolisopropyl ether to give ethyl 7-(3-acetylamino-1-pyrrolidinyl)-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylate (1.50 g), m.p. 246°-248° C.

reactant | ethyl 7-chloro-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylate | 1.24 g | ClC1=C(C=C2C(C(=CN(C2=N1)C1CC1)C(=O)OCC)=O)F | C14H12ClFN2O3
reactant | 3-acetylaminopyrrolidine | 563 mg | C(C)(=O)NC1CNCC1 | C6H12N2O
reactant | sodium bicarbonate | 437 mg | C([O-])(O)=O.[Na+]
solvent | acetonitrile | 40 ml | C(C)#N | C2H3N
product | ethyl 7-(3-acetylamino-1-pyrrolidinyl)-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylate | 1.50 g | C(C)(=O)NC1CN(CC1)C1=C(C=C2C(C(=CN(C2=N1)C1CC1)C(=O)OCC)=O)F | C20H23FN4O4
